US09314464B2
Intermediate. 4-(3-Iodo-1-isopropyl-1H-pyrazol-4-yl)pyrimidin-2-ol
Sodium nitrite (314 mg, 4.55 mmol) was added in portions to a stirred mixture of Intermediate 4-(3-iodo-1-isopropyl-1H-pyrazol-4-yl)pyrimidin-2-amine (500 mg, 1.52 mmol) and trifluoroacetic acid (15 ml) at 0° C. The mixture was allowed to warm to rt and was stirred for 1 h, then the solvent was removed under vacuum. The crude mixture was diluted with ethyl acetate and washed with saturated aqueous potassium carbonate solution and brine to provide the title compound as a solid. MS m/z 331.0 (M+1).

reactant | Sodium nitrite | 4.55 mmol, 314 mg | N(=O)[O-].[Na+]
reactant | 4-(3-iodo-1-isopropyl-1H-pyrazol-4-yl)pyrimidin-2-amine | 1.52 mmol, 500 mg | IC1=NN(C=C1C1=NC(=NC=C1)N)C(C)C | C10H12IN5
reactant | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(3-Iodo-1-isopropyl-1H-pyrazol-4-yl)pyrimidin-2-ol | IC1=NN(C=C1C1=NC(=NC=C1)O)C(C)C | C10H11IN4O
